US05424309
5 g of diethyl benzylmalonate was dissolved in a mixture of 120 ml of ethanol and 80 ml of THF, and 3.8 g of sodium borohydride and 4.3 g of lithium chloride were added thereto under cooling with ice. The mixture was stirred at room temperature for 2 hours. Then, 5.8 ml of acetic acid was added thereto, and the solvent was distilled off under reduced pressure. Water and ethyl acetate were added to the residue. The ethyl acetate layer was separated, washed with water and with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 3.5 g of 2-benzyl-1,3-propanediol as colorless solid.

reactant | diethyl benzylmalonate | 5 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
reactant | lithium chloride | 4.3 g | [Cl-].[Li+]
reactant | acetic acid | 5.8 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2-benzyl-1,3-propanediol | 3.5 g | C(C1=CC=CC=C1)C(CO)CO | C10H14O2
